US05922880
A reaction vessel was charged with 4.24 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(benzyloxy)benzene, 1.33 g of benzoic acid, 1.65 g of potassium carbonate and 20 ml of N,N-dimethylformamide. After stirring at room temperature for 24 hours, the reaction mixture was poured into water, and extracted twice with 150 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 3.75 g of 3,5-dichloro-4-(3-benzoyloxypropyloxy)-1-(benzoyloxy)benzene (80% yield).

reactant | 3,5-dichloro-4-(3-bromopropyloxy)-1-(benzyloxy)benzene | 4.24 g | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC1=CC=CC=C1 | C16H15BrCl2O2
reactant | benzoic acid | 1.33 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-dichloro-4-(3-benzoyloxypropyloxy)-1-(benzoyloxy)benzene | 3.75 g, 80% yield | ClC=1C=C(C=C(C1OCCCOC(C1=CC=CC=C1)=O)Cl)OC(C1=CC=CC=C1)=O | C23H18Cl2O5
